US04166131
2-isopropyl-α-methyl-5-indanacetic acid
A solution of 1.7 g of 2-isopropyl-α-methylene-5-indanacetic acid in 300 cc of ethanol is hydrogenated at room temperature with the addition of 50 mg of platinum(IV) oxide. After filtering off the catalyst, removing the solvent by evaporation and chromatographing the resulting oil, 2-isopropyl-α-methyl-5-indanacetic acid, having a M.P. of 83°-86°, is obtained. The (1,3-dihydroxy-2-hydroxymethyl-2-propyl)ammonium salt of the title compound has a M.P. of 140°-141° (from methanol/ether).

reactant | 2-isopropyl-α-methylene-5-indanacetic acid | 1.7 g | C(C)(C)C1CC2=CC=C(C=C2C1)C(C(=O)O)=C | C15H18O2
reactant | (1,3-dihydroxy-2-hydroxymethyl-2-propyl)ammonium | OCC(CO)(CO)[NH3+]
solvent | ethanol | 300 cc | C(C)O | C2H6O
catalyst | platinum(IV) oxide | 50 mg | [Pt](=O)=O
product | 2-isopropyl-α-methyl-5-indanacetic acid | C(C)(C)C1CC2=CC=C(C=C2C1)C(C(=O)O)C | C15H20O2
